US09079873B2
Benzyl 2-oxa-3-azabicyclo[2.2.1]hept-5-ene-3-carboxylate (I)
Cyclohexanone oxime (20.04 g, 171.8 mmol) and methyl t-butyl ether (110 mL) were added to a reactor at 25° C. and stirred under N2 (g). The solution was cooled to −10° C. and Cl2 (g) was added during 15 min until a deep blue, clear solution was obtained. Vacuum was applied to remove remaining Cl2 and possible HCl from the reaction mixture. The temperature was set to −2° C., and a solution of Na2CO3 (11.03 g, 103 mmol) in water (90 mL) was slowly added during 30 min. The phases were separated and the organic phase transferred to a solution of Na2CO3 (19.3 g, 180.3 mmol) in water (126 mL) at 15° C. Benzyl chloroformate (32.3 g, 179.87 mmol) was added and the reaction mixture stirred for 10 min after which cyclopentadiene (25.2 g, 362.16 mmol) was added and the reaction mixture stirred for 3 h. Vacuum was applied and the remaining cyclopentadiene was removed. The phases were separated and the organic phase containing the title product was taken further directly to Example 2 as below.

reactant | Cyclohexanone oxime | 171.8 mmol, 20.04 g | C1(CCCCC1)=NO | C6H11NO
reactant | Cl2 | ClCl | Cl2
reactant | Na2CO3 | 103 mmol, 11.03 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | Na2CO3 | 180.3 mmol, 19.3 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | Benzyl chloroformate | 179.87 mmol, 32.3 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | cyclopentadiene | 362.16 mmol, 25.2 g | C1=CC=CC1 | C5H6
solvent | water | 90 mL | O | H2O
solvent | water | 126 mL | O | H2O
solvent | methyl t-butyl ether | 110 mL | C(C)(C)(C)OC | C5H12O
product | Benzyl 2-oxa-3-azabicyclo[2.2.1]hept-5-ene-3-carboxylate | C12ON(C(C=C1)C2)C(=O)OCC2=CC=CC=C2 | C13H13NO3
